US08227801B2
2-chloro-4-iodo-N-(triphenylphosphoranylidene) pyridin-3-amine (12 g, 23 mmol), (2-methoxyphenyl) boronic acid (4.25 g, 28 mmol), 2M potassium carbonate solution (46.6 ml, 93 mmol) were poured in 120 mL DME and degassed with bubbling nitrogen for 15 min. To the stirred solution was added tetrakisphosphine palladium(0) (1.35 g, 1.12 mmol) and reaction mixture was degassed for another 10 min. Reaction mixture was then refluxed for 48 h. Cooled reaction mixture was partitioned between ethyl acetate and brine. Organic layer was isolated, dried over anhd. Na2SO4 and purified by silica gel column chromatography using 5-30% ethyl acetate/hexanes as eluent. 2-chloro-4-(2-methoxyphenyl)pyridin-3-amine (4.3 g, 18 mmol, 78% yield) was isolated as liquid oil which turns into white crystals upon standing at room temperature.

reactant | 2-chloro-4-iodo-N-(triphenylphosphoranylidene) pyridin-3-amine | 23 mmol, 12 g | ClC1=NC=CC(=C1N=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)I | C23H17ClIN2P
reactant | (2-methoxyphenyl) boronic acid | 28 mmol, 4.25 g | COC1=C(C=CC=C1)B(O)O | C7H9BO3
reactant | potassium carbonate | 93 mmol, 2M, 46.6 ml | C([O-])([O-])=O.[K+].[K+]
solvent | DME | 120 mL | COCCOC | C4H10O2
catalyst | tetrakisphosphine palladium(0) | 1.12 mmol, 1.35 g | [Pd].P.P.P.P
product | 2-chloro-4-(2-methoxyphenyl)pyridin-3-amine | 18 mmol, 4.3 g, 78% yield | ClC1=NC=CC(=C1N)C1=C(C=CC=C1)OC | C12H11ClN2O
